US07429609B2
2-Chloro-4-methylpyridin-5-ylamine
308 mg of 5-bromo-2-chloro-4-methylpyridine was dissolved in 6 mL of toluene, added with 680 mg cesium carbonate, 0.3 mL of benzophenoneimine, 42 mg of 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl and 46 mg of tris(dibenzylideneacetone)bis palladium, and stirred under nitrogen atmosphere at 110° C. for 15 hours. The reaction solution was allowed to cool to room temperature, then added with saturated brine, extracted with ethylacetate, dried over magnesium sulfate, and then the solvent was evaporated. The residue was added with 10 mL of tetrahydrofuran and 10 mL of 5N hydrochloric acid, and stirred at room temperature for 1 hour. The reaction solution was added with aqueous sodium hydrogen carbonate, extracted with ethyl acetate, and the organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1), to afford 56 mg of the title compound.

reactant | 5-bromo-2-chloro-4-methylpyridine | 308 mg | BrC=1C(=CC(=NC1)Cl)C | C6H5BrClN
reactant | cesium carbonate | 680 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzophenoneimine | 0.3 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl | 42 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
product | 2-Chloro-4-methylpyridin-5-ylamine | 56 mg | ClC1=NC=C(C(=C1)C)N | C6H7ClN2
